US06136823
Synthesis of 1-(5-Amino-2,4-difluorophenyl)-6-fluoro-8-methoxy-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
Pyridine (200 mg) and a 40% aqueous solution (200 mg) of methylamine were added to 1-(5-amino-2,4-difluorophenyl)-6,7-difluoro-8-methoxy-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (100 mg), and the mixture was stirred at 50° C. for 25 hours. The solvent was distilled off, and ethanol was added to the residue. The resultant mixture was stirred, and solids were collected by filtration and washed with ethanol and diethyl ether to obtain the title compound (33 mg) as a yellow powder.

reactant | methylamine | CN | CH5N
reactant | 1-(5-amino-2,4-difluorophenyl)-6,7-difluoro-8-methoxy-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 100 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)OC)F)F)=O)C(=O)O)F)F | C17H10F4N2O4
solvent | Pyridine | 200 mg | N1=CC=CC=C1 | C5H5N
product | 1-(5-Amino-2,4-difluorophenyl)-6-fluoro-8-methoxy-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 33 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)OC)NC)F)=O)C(=O)O)F)F | C18H14F3N3O4
